US05071999
d) 2-Benzyl5-fluoro-7-methyl-2,7-diazabicyclo[3.3.0]-octane
A solution of 16.4 g (49.4 mmol, 88% pure) of ethyl 2-benzyl-5-fluoro-2,7-diazabicyclo[3.3.0]octane-7-carboxylate in 25 ml of absolute tetrahydrofuran is added dropwise to 4.3 g (0.11 mol) of lithium aluminum hydride in 125 ml of absolute tetrahydrofuran and the mixture is then heated overnight under reflux. It is decomposed successively with 4.5 ml each of water, 15% strength potassium hydroxide solution and water, and the inorganic salts are filtered off with suction and boiled three times with 50 ml of tetrahdrofuran each time. The organic solutions are concentrated and the residue is distilled.

reactant | ethyl 2-benzyl-5-fluoro-2,7-diazabicyclo[3.3.0]octane-7-carboxylate | 49.4 mmol, 16.4 g | C(C1=CC=CC=C1)N1C2CN(CC2(CC1)F)C(=O)OCC | C16H21FN2O2
reactant | lithium aluminum hydride | 0.11 mol, 4.3 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 4.5 ml | O | H2O
reactant | potassium hydroxide | [OH-].[K+]
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 125 ml | O1CCCC1 | C4H8O
product | 2-Benzyl5-fluoro-7-methyl-2,7-diazabicyclo[3.3.0]-octane | C(C1=CC=CC=C1)N1C2CN(CC2(CC1)F)C | C14H19FN2
